US07727989B2
(a) 5-[5-Bromo-3-methoxy-2-(2-trimethylsilanylethoxymethoxy)-phenyl]oxazole
1 g of 5-bromo-3-methoxy-2-(2-trimethylsilanylethoxymethoxy)benzaldehyde and 0.54 g of p-toluenesulfonylmethyl isocyanide are dissolved in 40 ml of methanol, 0.38 g of o-potassiumcarbonate is added in portions, and the reaction mixture is heated to reflux for 18 h. The solvent is then distilled off, and the crude product is purified by silica gel chromatography (ethyl acetate/heptane).

reactant | 5-bromo-3-methoxy-2-(2-trimethylsilanylethoxymethoxy)benzaldehyde | 1 g | BrC=1C=C(C(=C(C=O)C1)OCOCC[Si](C)(C)C)OC | C14H21BrO4Si
reactant | p-toluenesulfonylmethyl isocyanide | 0.54 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
solvent | methanol | 40 ml | CO | CH4O
product | 5-[5-Bromo-3-methoxy-2-(2-trimethylsilanylethoxymethoxy)-phenyl]oxazole | BrC=1C=C(C(=C(C1)C1=CN=CO1)OCOCC[Si](C)(C)C)OC | C16H22BrNO4Si
